### PR TITLE
Added inverses more explicitely of associator and unitors

### PR DESCRIPTION
**Pull request by Kfwullaert**

### CODE REVIEW

**Comment by rmatthes** [comment]
It would be very good to have names for the formulas appearing in `WhiskeredDisplayedBifunctors.v` as well. Currently, `disp_bifunctor_data`, `make_disp_bifunctor_data` and the accessors share the same voluminous formulas.

**Review by rmatthes — APPROVED** [review]
one can always do more, but this is already a very useful step - as demonstrated in the application

File: UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v [hunk 1]
```diff
@@ -237,12 +236,83 @@ Section DisplayedMonoidalCategories.
...
   Definition disp_monoidal_pentagonidentity  {C : category} {D : disp_cat C} {M : monoidal C} (DM : disp_monoidal D M) : disp_pentagon_identity dα_{DM} := pr2 (pr2 (pr2 (pr2 (disp_monoidal_monlaws DM)))).
 
+  (* Should be in DisplayedCats.Isos. *)
+  Lemma isaprop_is_z_iso_disp {C : category} {D : disp_cat C}
+        {x y : C} (f : z_iso x y) {xx : D x} {yy} (ff : xx -->[f] yy)
+    : isaprop (is_z_iso_disp f ff).
+  Proof.
+    apply invproofirrelevance; intros i i'.
+    apply subtypePath.
+- intros gg. apply isapropdirprod; apply homsets_disp.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v:264]: Indentation is weird in this proof.
